US07667041B2
Synthesis of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]pyrrolidin-2-one
A mixed solution of ethanol (100 mL) and methanol (100 mL) of (E)-1-acetyl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]pyrrolidin-2-one (7.5 g) and potassium carbonate (1.6 g) was agitated at room temperature for 2 hours. After condensing reaction solution to ⅓, added to iced water and ethyl acetate and deposited solids were separated by filtration to obtain 4.7 g of the title compound. Furthermore, the filtrate was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate after washed with a saturated saline solution. This solution was concentrated and the deposited solids was obtained by filtration to yield 2.7 g of the title compound. The physical properties of the compound are as follows.

reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | methanol | 100 mL | CO | CH4O
reactant | (E)-1-acetyl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]pyrrolidin-2-one | 7.5 g | C(C)(=O)N1C(/C(/CC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C18H19N3O3
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]pyrrolidin-2-one | 4.7 g | COC=1C=C(\C=C/2\C(NCC2)=O)C=CC1N1C=NC(=C1)C | C16H17N3O2
